US04137401
The antigenic determinant 8-ethoxycarbonyloctyl 2-acetamido-2-deoxy-β-D-glucopyranoside (2).
Mercuric cyanide (31.8 g, 126 mmol) and anhydrous calcium sulfate were added to a solution of 8-ethoxycarbonyl-1-octanol (25 g, 124 mmol) in 100 ml of dry benzene. The mixture was protected from moisture while stirring for 1 h at room temperature prior to addition of 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-glucopyranosyl chloride (25 g, 68 mmol). The mixture was efficiently stirred for 4 days at room temperature. Dichloromethane (400 ml) was added, the solids were removed by filtration, and the filtrate was sequentially washed with 10% aqueous sodium chloride solution (50 ml), once with saturated aqueous sodium bicarbonate solution (25 ml), and twice with water (50 ml). In each case, the aqueous layer was back-extracted with a little dichloromethane. After drying over magnesium sulfate, the solvents were removed to leave a syrup which crystallized from a mixture of diethyl ether and n-hexane. The crude yield of 8-ethoxycarbonyloctyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-β-D-glucopyranoside was 28.9 g (80%). A recrystallized sample showed mp 112°, [α]D20 - 12.2° (c 2.4, chloroform). De-O-acetylation of this compound with triethylamine (27 ml) in methanol (500 ml) at 0°-5° for 18 h gave after evaporation of the solvent compound 2 as a chromatographically homogeneous powder which resisted crystallization and was therefore characterized as its hydrazide derivative mp 200°-201°, [α]D26 - 22.5° (c 1, water), prepared by treating 2 with an 85% solution of hydrazine hydrate.

reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | 8-ethoxycarbonyl-1-octanol | 124 mmol, 25 g | C(C)OC(=O)CCCCCCCCO | C11H22O3
reactant | 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-glucopyranosyl chloride | 68 mmol, 25 g | C(C)(=O)N[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Cl | C14H20ClNO8
reactant | hydrazine hydrate | O.NN
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | Dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 8-ethoxycarbonyloctyl 2-acetamido-2-deoxy-β-D-glucopyranoside | C(C)(=O)N[C@H]1[C@H](OCCCCCCCCC(=O)OCC)O[C@@H]([C@H]([C@@H]1O)O)CO | C19H35NO8
